Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
MRI Abnormalities 
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
The pt is a ___ old woman with history of ulcerative 
proctitis and a 9- month history of left-sided headaches who is 
referred for expedited inpatient workup of multifocal 
intraparenchymal lesions seen on brain MRI.

Briefly, the patient begins her history ___ years ago when she 
slipped and fractured her c-spine. Since then, she recovered but 
for a time experienced transient right and left sided neck pain 
that would radiate up into the occiput. About 9 months ago, in 
___, she began to develop new headaches, described as 
"head pain" located on the left temporoparietal region, which 
tended to occur when she was lying flat rather than standing. 
There may also be a "strange sensation" over her left ear, which 
is hard for her to describe. The pain is described as 
continuous, rather than throbbing, and occurred intermittently, 
in episodes. However, over the past month or so, they have 
become much more frequent, and over the past few weeks she has 
experienced this head pain at least daily. There is no 
hyperesthesia or numbness when she touches the area. There is no 
blurred vision or diplopia, or transient visual loss with 
episodes, or jaw claudication. However, over the past year she 
has had a small number of migraines preceded by a sensation of 
flashing lights in her left visual field, responsive to 
excedrin, which is unusual, as her typical migraines occurred in 
her ___ and stopped after that.

She has developed no other symptoms since, but due to the 
frequency of these head pains, she sought evaluation and saw Dr. 
___ in clinic a few days ago. He ordered brain and C-spine 
MRI, which revealed diffuse T2 hyperintensities scattered 
throughout the cortical/subcortical areas including basal 
ganglia and medulla, as well as within the cervical cord. He 
called her with results and urged her to present to the ED for 
expedited workup. She otherwise feels well.

On neuro ROS, the pt denies loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies focal weakness, numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Ulcerative colitis, well controlled on mesalamine
Low back pain
Osteoporosis
Bladder prolpase, uses pessary
 
Social History:
___
Family History:
Mother with strokes at age ___, but no vascular risk factors. 
Father with CAD s/p CABG, prostate cancer, and pancreatic 
cancer.
 
Physical Exam:
Physical Exam:
General: Awake, Cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:
-Mental Status: Alert, oriented x3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic 
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, proprioception 
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    2    3   2
R  3  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

DISCHARGE EXAM:

Physical Exam:
___ 1540 Temp: 97.8 PO BP: 109/63 HR: 76 RR: 18 O2 sat: 99%
O2 delivery: RA FSBG: 111 

General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: warm, well perfused, bilateral lower extremity non
pitting edema
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
comprehension. Normal prosody. There were no paraphasic errors.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOM full, end gaze
extinguishing nystagmus bilaterally. Normal saccades. VFF to
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  IP Quad Ham TA ___ 
L  5    ___    5   5    5  5     5     5   
R  5    ___    5   5    5  5     5     5  

-Sensory: No deficits to light touch, No extinction to DSS.
Vibration felt at the MTP of the great toe 4 seconds on the
right, 7 seconds on the left. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    2    3   2
R  3  2    2    2   2
No jaw jerk
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, No dysmetria on FNF
bilaterally.

 
Pertinent Results:
___ 04:15PM   ___ PTT-30.7 ___
___ 04:15PM   PLT COUNT-249
___ 04:15PM   NEUTS-78.7* LYMPHS-12.1* MONOS-7.2 EOS-0.8* 
BASOS-0.6 IM ___ AbsNeut-6.80* AbsLymp-1.04* AbsMono-0.62 
AbsEos-0.07 AbsBaso-0.05
___ 04:15PM   WBC-8.6 RBC-4.99 HGB-14.8 HCT-44.9 MCV-90 
MCH-29.7 MCHC-33.0 RDW-13.9 RDWSD-45.2
___ 04:15PM   CRP-0.8
___ 04:15PM   TRIGLYCER-69 HDL CHOL-82 CHOL/HDL-3.2 
LDL(CALC)-167*
___ 04:15PM   %HbA1c-5.7 eAG-117
___ 04:15PM   VIT B12-655
___ 04:15PM   ALBUMIN-4.5 CALCIUM-9.8 PHOSPHATE-4.2 
MAGNESIUM-2.4 CHOLEST-263*
___ 04:15PM   ALT(SGPT)-18 AST(SGOT)-26 ALK PHOS-100 TOT 
BILI-0.2
___ 04:15PM   GLUCOSE-120* UREA N-29* CREAT-0.9 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-99 TOTAL CO2-25 ANION GAP-15
___ 10:30PM URINE  RBC-8* WBC-11* BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 10:30PM URINE  BLOOD-NEG NITRITE-POS* PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-LG*
___ 10:30PM URINE  COLOR-Straw APPEAR-Clear SP ___

MRI Head ___:
IMPRESSION:
1. Diffuse subcortical T2/FLAIR white matter hyperintensities 
involving the bilateral frontotemporoparietal lobes, bilateral 
basal ganglia and medulla, without evidence of associated 
enhancement. Many of these lesions demonstrate DWI 
hyperintensity without clear ADC hypointensity. 
2. The differential consideration is broad and may represent 
sequela of chronic embolic infarcts, vasculitides or potentially 
inflammatory/infectious process.  Sarcoidosis is a 
consideration, although one would expect nodular enhancement.  
This is not in a distribution typical for demyelinating process, 
although this is not excluded.  Metabolic disorder is 
consideration, although less likely given the patient's age.
3. There is a left frontal convexity extra-axial CSF collection 
measuring approximately 4.1 cm in greatest dimension compatible 
with an arachnoid cyst exerting mild adjacent local sulcal 
effacement. 
4. Additional findings as described above.
ADDENDUM  In addition, neoplastic process should be considered.

MRI C-Spine ___: 
IMPRESSION: 
1. Subtle hazy T2 hyperintense nonenhancing signal of the 
cervical cord spanning C2-C3 through C4-C5.  Possible regions of 
abnormal cord signal in the visualized lower cervical and upper 
thoracic cord. This is nonspecific.  Please refer to concurrent 
MRI head for differential considerations which ranges from 
sequela of inflammatory/infectious etiology, demyelinating 
process to embolic/ischemic disease.  Neoplastic process while 
considered less likely given lack of postcontrast enhancement is 
not entirely excluded.
2. Mild degenerative changes as described above without 
high-grade spinal canal or neural foraminal narrowing.
3. Additional findings described above.

___ CTA and CTA Neck 
IMPRESSION:  
1. No evidence of hemorrhage or infarction. 
2. Mild multifocal atherosclerotic disease within the 
intracranial and 
cervical vasculature, without high-grade stenosis, occlusion, 
dissection, or aneurysm. 
3. Slight irregularity of the left humeral head is only imaged 
on the scout.  There is a small round, well corticated ossific 
density in the region of the left shoulder.  These findings may 
be chronic in nature, although a left shoulder radiograph could 
be considered if clinically indicated. 
4. Additional findings, as above. 

___ SHOULDER ___ VIEWS NON TRAUMA LEFT
IMPRESSION:    
Mild AC joint degenerative changes.  Previously seen rounded 
radiodensity 
projecting over the superolateral humeral head is likely 
external to the 
patient, on the patient's clothing. 

___ Echo 
IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. No thrombus 
or mass visualized.  
 
___ 04:05AM BLOOD WBC-5.7 RBC-4.31 Hgb-13.0 Hct-39.6 MCV-92 
MCH-30.2 MCHC-32.8 RDW-14.0 RDWSD-47.7* Plt ___
___ 04:05AM BLOOD ___ PTT-30.0 ___
___ 04:05AM BLOOD Lupus-PND
___ 04:05AM BLOOD Glucose-89 UreaN-19 Creat-0.7 Na-145 
K-4.4 Cl-107 HCO3-25 AnGap-13
___ 04:05AM BLOOD Calcium-8.6 Phos-3.9 Mg-2.4 Cholest-201*
___ 04:05AM BLOOD VitB12-518
___ 04:15PM BLOOD %HbA1c-5.7 eAG-117
___ 04:05AM BLOOD Triglyc-54 HDL-71 CHOL/HD-2.8 LDLcalc-119
___ 04:05AM BLOOD TSH-3.0
___ 04:05AM BLOOD ANCA-PND
___ 04:05AM BLOOD RheuFac-<10
___ 04:05AM BLOOD ___ CRP-1.1 dsDNA-PND
___ 04:05AM BLOOD C3-94 C4-40
___ 04:05AM BLOOD HIV Ab-NEG
___ 04:05AM BLOOD COPPER (SPIN NVY/NO ADD)-PND
___ 04:05AM BLOOD SED RATE-PND
___ 04:05AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 04:05AM BLOOD Beta-2-Glycoprotein 1 Antibodies IgG-PND
___ 04:05AM BLOOD VITAMIN E-PND
___ 04:05AM BLOOD RO & ___
___ 04:05AM BLOOD RNP ANTIBODY-PND
___ 04:05AM BLOOD ANGIOTENSIN 1 - CONVERTING ___
___ 04:05AM BLOOD NEUROMYELITIS OPTICA 
(NMO)/AQUAPORIN-4-IGG CELL-BINDING ASSAY, SERUM-PND
 
Brief Hospital Course:
The pt is a ___ year old woman with history of ulcerative 
proctitis and a 9 month history of left sided headaches who is 
referred to the ___ for expedited inpatient workup of 
multifocal intraparenchymal lesions seen on brain MRI.

As mentioned on MRI report, the differential diagnosis for her 
findings is quite broad and includes infectious, inflammatory, 
autoimmune, malignant, and demyelinating etiologies. Also taking 
into account her presentation with a subacute history of 
headaches in conjunction with her age, either CNS isolated 
vasculitis or neurologic involvement of a systemic vasculitis 
must be ruled out. History of ulcerative colitis could also 
raise her risk of developing additional autoimmune entities. 
Will admit for expedited workup including vessel imaging and CSF 
sampling.

-------------------
Ms. ___ is a ___ year old woman with ulcerative proctitis and 
a 9 month history of left sided headaches who was admitted to 
the Neurology service for evaluation for multifocal 
intraparenchymal lesions seen on brain MRI. She had a non focal 
neurologic examination. Differential for her CNS lesions include 
subacute stroke, infectious, inflammatory, autoimmune, 
malignant,and demyelinating etiologies. She was started on daily 
aspirin 81 mg. 

Her stroke risk factors include the following: 
 1) DM: A1c 5.7% 
 2) Mild multifocal atherosclerotic disease within the 
intracranial and 
cervical vasculature, without high-grade stenosis, occlusion, 
dissection, or 
aneurysm seen on CTA. 
 3) Hyperlipidemia: LDL 167, Total cholesterol 263, HDL 82; 
repeat with LDL 119, Total cholesterol 201, HDL 71. Low dose 
atorvastatin started with plan to monitor for tolerance and 
increase as an outpatient. 
 4) Screening for cardiac risk factors: screening echocardiogram 
showed normal biventricular cavity sizes with preserved global 
and regional biventricular systolic function. No thrombus or 
mass visualized. Patient discharged home with cardiac rhythm 
monitoring to evaluate for paroxysmal atrial fibrillation. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. No thrombus 
or mass visualized. 

She had a shoulder xray which showed degenerative joint changes. 
Urinalysis was positive however patient was asymptomatic and 
reported that her urine is always falsely positive due to 
pessary. Screening CXR was normal. She underwent a lumbar 
puncture which has 0 WBC, 0 RBC, and normal protein and glucose. 
Flow was attempted however because sample was acellular, 
cytology could not be performed. Patient had a low-pressure 
headache following the lumbar puncture which was controlled with 
IV fluids and fioricet. Gabapentin was started for neuropathic 
pain. 

Additional serum and CSF studies are pending. 

 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack 
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No not applicable
 4. LDL documented? (x) Yes (LDL = 119 ) - () No 
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL if LDL >70, reason not given: started low dose atorvastatin 
and will monitor for tolerance given muscle ackes
 [ ] Statin medication allergy 
 [x] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL] 
 6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No patient direct admission from home, no 
rehabilitation needs 
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
 10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No 
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 

Code/Contact: Full 

TRANSITIONAL ISSUES 
[ ] Patient started on atorvastatin 20 mg nightly; monitor 
tolerance and increase to 40 mg nightly if tolerated
[ ] started on gabapentin 100 mg nightly for neuropathic pain, 
if needed consider increasing
[ ] Follow up with Neurology Dr. ___ at 
9:00 AM
[ ] repeat brain MRI in 2 months per Dr. ___
[ ] pending results of cardiac monitor, may consider 
conventional angiogram 
[ ] f/u pending CSF and serum studies

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ 1600 mg PO BID 
2. estradiol 0.01 % (0.1 mg/gram) vaginal 1X/WEEK 
3. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
4. Ascorbic Acid ___ mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
8. Vitamin B Complex 1 CAP PO DAILY 
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ 1600 mg PO BID 
2. estradiol 0.01 % (0.1 mg/gram) vaginal 1X/WEEK 
3. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
4. Ascorbic Acid ___ mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
8. Vitamin B Complex 1 CAP PO DAILY 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital 1 TAB PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *butalbital-acetaminophen-caff [Fioricet] 50 mg-300 mg-40 mg 
1 capsule(s) by mouth every 6 hours Disp #*12 Capsule Refills:*0 

2.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
3.  Atorvastatin 20 mg PO QPM 
Your doctor may increase the dose if you are tolerating the 
medication. 
RX *atorvastatin 20 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*2 
4.  Gabapentin 100 mg PO QHS 
RX *gabapentin 100 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*2 
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Estradiol 0.01 % (0.1 mg/gram) vaginal 1X/WEEK (___)  
7.  Mesalamine ___ 1600 mg PO BID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Vitamin B Complex 1 CAP PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

1.  Acetaminophen-Caff-Butalbital 1 TAB PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *butalbital-acetaminophen-caff [Fioricet] 50 mg-300 mg-40 mg 
1 capsule(s) by mouth every 6 hours Disp #*12 Capsule Refills:*0 

2.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
3.  Atorvastatin 20 mg PO QPM 
Your doctor may increase the dose if you are tolerating the 
medication. 
RX *atorvastatin 20 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*2 
4.  Gabapentin 100 mg PO QHS 
RX *gabapentin 100 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*2 
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Estradiol 0.01 % (0.1 mg/gram) vaginal 1X/WEEK (___)  
7.  Mesalamine ___ 1600 mg PO BID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Vitamin B Complex 1 CAP PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abnormal brain imaging
Hyperlipidemia
Neuropathic Pain 
Low Pressure Headache

 
Discharge Condition:
Alert and oriented. Non focal neurologic exam. Able to ambulate 
independently. 

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized for evaluation of lesions on your brain 
MRI of unclear etiology which may be related to infection, 
inflammation, or small strokes. Although we do not know if you 
had small strokes, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot, we still 
assessed you for medical conditions that might raise your risk 
of having stroke. In order to prevent future strokes, we plan to 
modify those risk factors. Your risk factors are:  
- high cholesterol

We are changing your medications as follows:  
 
Take atorvastatin 20 mg nightly because your cholesterol is 
elevated. You will discuss increasing this medication with your 
doctor. 
Take gabapentin 100 mg nightly for neuropathic pain (your "pain 
in head").  
Take aspirin 81 mg daily. 
Take fioricet as needed for headache related to lumbar puncture. 
Do not take with Tylenol. 
 
Please take your other medications as prescribed. 

We also evaluated for cardiac risk factors for stroke. Your 
echocardiogram was unremarkable. You will be monitored at home 
with a cardiac monitor to evaluate for atrial fibrillation which 
can also cause strokes. 

You had a imaging study called a CT angiogram that showed mild 
atherosclerotic disease in the blood vessels in your brain. 

You had a shoulder xray which showed degenerative joint changes. 


You had a lumbar puncture which showed no concerning cells for 
inflammation or infection but there are some other specific 
tests pending. You had a mild "low pressure headache" after the 
lumbar puncture. You can increase fluid intake, drink caffeine, 
lay flat and take Fioricet as prescribed to help with this pain. 


You will follow-up with Dr. ___ further management.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). Please pay attention to the sudden onset 
and persistence of these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___